US05281603
2-Butyl-6-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-4(1H)-quinazolinone
A mixture of 1.5 g of 2-Butyl-6-(1H-tetrazol-5-yl)-4(1H)-quinazolinone, 3.0 g of triphenylmethyl chloride and 3 ml of triethylamine in methylene chloride is heated at reflux for 2 hours. The reaction mixture is cooled to room temperature and washed with water. The organic layer is dried with Na2SO4 and evaporated in vacuo to a residue which is purified by column chromatography on silica gel by elution with 40% ethyl acetate-hexanes to give 1.0 g of the desired product as a solid, m.p. 182° C.

reactant | 2-Butyl-6-(1H-tetrazol-5-yl)-4(1H)-quinazolinone | 1.5 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C1=NN=NN1 | C13H14N6O
reactant | triphenylmethyl chloride | 3.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Butyl-6-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-4(1H)-quinazolinone | 1.0 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H28N6O
